US04277471
By a similar procedure, 2-formyl-1,1'-biphenyl was reacted with 3-dimethylaminopropyl magnesium chloride hydrochloride to provide N,N-dimethyl-4-hydroxy-4-(1,1'-biphenyl-2-yl)butylaminium chloride. M.P. 161°-164° C.

reactant | 2-formyl-1,1'-biphenyl | C(=O)C1=C(C=CC=C1)C1=CC=CC=C1 | C13H10O
reactant | 3-dimethylaminopropyl magnesium chloride hydrochloride | Cl.CN(CCC[Mg]Cl)C
product | N,N-dimethyl-4-hydroxy-4-(1,1'-biphenyl-2-yl)butylaminium chloride | [Cl-].C[NH+](C)CCCC(C1=C(C=CC=C1)C1=CC=CC=C1)O | InChI=1S/C18H23NO.ClH/c1-19(2)14-8-13-18(20)17-12-7-6-11-16(17)15-9-4-3-5-10-15;/h3-7,9-12,18,20H,8,13-14H2,1-2H3;1H
